*$
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: THS3091
* Date: 28/06/2016 
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 16.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SLOS423H –SEPTEMBER 2003–REVISED DECEMBER 2015
*
* Model Version: 1.0
*
****************************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
****************************************************************************************

*******************************************************************************************************************
* NOTES:
* THS3091 SUBCIRCUIT
* HIGH SPEED MONLITHIC OPERATIONAL AMPLIFIER 
* THIS MODEL SIMULATES TYPICAL VALUES FOR THE FOLLOWING:
* SETTLING TIME, OUTPUT VOLTAGE LIMIT, INPUT VOLTAGE NOISE, INPUT BIAS CURRENT,
* TYPICAL VALUES FOR INPUT OFFSET VOLTAGE AND OFFSET BIAS CURRENT,
* CURRENT DRAW FROM POWER SUPPLY, OUTPUT IMPEDANCE AND LOADING EFFECTS
* BANDWIDTH IS HIGH IN GAINS OF +1V/V AND +2V/V AND LOW AT HIGHER GAINS 
* SLEW RATE IS CORRECT AT 2VSTEP BUT DOES NOT INCREASE WITH STEP SIZE AS ACTUAL DEVICE DOES
* THIS MODEL WILL NOT PROVIDE ACCURATE SIMULATION OF: 
* CMRR AND PSRR, INPUT CURRENT NOISE, DISTORTION, INPUT OFFSET, OPEN LOOP GAIN, OR INPUT CURRENT NOISE
*******************************************************************************************************************


*.subckt THS3091 inp inn out vcc vee
.subckt THS3091  In+  In-  V+  V- OUT  



.MODEL bi_pnp PNP	
+ RC=100
+ CJE=20.000E-15
+ CJC=20.000E-15
+ KF=1.5e-13

.MODEL bi_npn NPN
+ RC=100
+ CJE=20.000E-15
+ CJC=20.000E-15
+ KF=1.5e-13

.MODEL D_break D
+ RS=1.0000E-1
+ CJO=1.0000E-13
+ IS=100e-15

* source THS3091
* Input stage
E_E6         INPP In+ N33650 0 1
R_R24        0 N33650  700 
C_C6         0 N33650  1f 
V_V6         IN In- 0.9mVdc
C_C3         0 In-  630f 
I_I4         In+ 0 -4.5uA
I_I5         In- 0 -3uA
Q_Q15        V+ INPP N00923 BI_NPN 4
Q_Q16        N01029 N00889 IN BI_NPN 4
Q_Q17        N01060 N01060 N013920 BI_NPN 12
Q_Q21        N01060 N00923 IN BI_PNP 4
Q_Q22        V- In+ N00889 BI_PNP 4
Q_Q23        N01029 N01029 N01331 BI_PNP 12
R_R1         N01331 N01300  250
R_R2         N01429 N013920  250
I_I1         V+ N00889 DC 300uAdc
I_I2         N00923 V- DC 300uAdc

* mirrors
X_F1         V+ N01300 V+ LLL SCHEMATIC1_F1
X_F2         N01429 V- LLL V- SCHEMATIC1_F2

* clamps
D_D5         LLL N29734 D_BREAK 2
D_D6         N29798 LLL D_BREAK 2
V_V7         N29734 V+ -2.3Vdc
V_V8         N29798 V- 2.3Vdc

* frequency shaping and compensation
C_C1         eref LLL  0.66p
R_R3         eref LLL  900k
R_R11        eref INT  1000
C_C5         eref INT  400f  
G_G1         INT eref LLL eref -1m

* buffer and output stages
E_E1         V+ N02648 N02361 eref -1
E_E2         N02628 V- N02418 eref 1
D_D3         N02648 N02743 D_BREAK 8
D_D4         N028591 N02628 D_BREAK 8

R_R5         N02855 N02743 5
R_R7         N028591 N02855 5
E_E101       avg V- V+ V- 0.5
E_E102       eref 0 avg 0 1
E_E103       diff 0 V+ V- 0.5
E_E104       lshift 0 diff ddrop 1
E_E105       INT N02361 lshift 0 1
E_E106       INT N02418 lshift 0 -1

C_C2         0 OUT  0.7p 
L_L1         N02855 OUT  1n
I_I3	     V+ V- 4.85mA

V_V102       ddrop 0 0.65

.ends THS3091
*$

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1        1 2 0V
.ends SCHEMATIC1_F1
*$

.subckt SCHEMATIC1_F2 1 2 3 4  
F_F2         3 4 VF_F2 1
VF_F2        1 2 0V
.ends SCHEMATIC1_F2
*$
